US06545073B1
100 parts by weight of diethyl hydrogen phosphite and 50 parts by weight of phosphoric acid are mixed and reacted. The reaction is exothermic and the temperature of the reactants are keep below their boiling point for 30 minutes to 1 hour thereby producing a diethyl hydrogen-phosphoric acid compound.

reactant | diethyl hydrogen phosphite | P(OCC)(OCC)O | C4H11O3P
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | diethyl hydrogen-phosphoric acid | C(C)OP(OCC)(O)=O | C4H11O4P
